US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenyl]-2-nitro-benzamide hydrochloric acid salt (Compound G2)
Was prepared by Method G from 4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenylamine and 2-nitrobenzoyl chloride. Mp. >280° C.

reactant | 4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 2-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenyl]-2-nitro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O | InChI=1S/C20H22N4O3.ClH/c25-20(18-3-1-2-4-19(18)24(26)27)21-15-5-7-16(8-6-15)23-14-13-22-11-9-17(23)10-12-22;/h1-8,17H,9-14H2,(H,21,25);1H
